US04119668
Condensation of 1-heptadecene oxide and hexamethylenediamine affords N,N'-(1,6-hexylene)-bis[2-hydroxyheptadecylamine] (I: R = CH3 (CH2)14, R' = H, X = (CH2)6, Z = H).

reactant | 1-heptadecene oxide | C1C(CCCCCCCCCCCCCCC)O1 | C17H34O
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
product | N,N'-(1,6-hexylene)-bis[2-hydroxyheptadecylamine] | C(CCCCCNCC(CCCCCCCCCCCCCCC)O)NCC(CCCCCCCCCCCCCCC)O | C40H84N2O2
